US09260441B2
Step B: 1-(6-Fluoro-4-methyl-2-pyridyl)piperazine hydrochloride
tert-Butyl 4-(6-fluoro-4-methyl-2-pyridyl)piperazine-1-carboxylate (360 mg, 1.22 mmol) was dissolved in a mixture of DCM (20 ml) and trifluoroacetic acid (5 ml) and stirred at room temperature for 2 hours. The mixture was concentrated under reduced pressure, dissolved in THF, evaporated again and again dissolved in THF. Hydrochloric acid (4N in dioxan) was added, the precipitate was collected by filtration, washed with THF and dried under reduced pressure to give 265 mg of a solid (1.14 mmol, yield 93%) MS (multi-mode) m/z=196.1 [M+1]+.

reactant | tert-Butyl 4-(6-fluoro-4-methyl-2-pyridyl)piperazine-1-carboxylate | 1.22 mmol, 360 mg | FC1=CC(=CC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C15H22FN3O2
reactant | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(6-Fluoro-4-methyl-2-pyridyl)piperazine hydrochloride | 1.14 mmol, 265 mg, yield 93% | Cl.FC1=CC(=CC(=N1)N1CCNCC1)C | InChI=1S/C10H14FN3.ClH/c1-8-6-9(11)13-10(7-8)14-4-2-12-3-5-14;/h6-7,12H,2-5H2,1H3;1H
